US07309703B2
1-{3-(4-Chloro-phenyl)-1-[2-methoxy-3-(4-o-tolyl-piperazin-1-yl)-propyl]-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl}-ethanone
A stirred solution of 1-{3-(4-chloro-phenyl)-1-[2-hydroxy-3-(4-o-tolyl-piperazin-1-yl)-propyl]-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl}-ethanone (25 mg, 0.05 mmol) in THF (0.2 mL) was treated with NaH (1.42 mg, 0.06 mmol) at 25° C. After 20 min, methyl iodide (3.7 μL, 0.06 mmol) was added and the reaction mixture was stirred for an additional 2 h. Preparative TLC (silica, 5% MeOH/CH2Cl2) afforded 14.6 mg (56%) of a colorless film. TLC (silica, 10% MeOH/CH2Cl2): Rf=0.38. MS (electrospray): m/z 522.2 ([M+H]+, C29H36ClN5O2 requires 521.3). 1H NMR (CDCl3, 400 MHz, a mixture of two rotamers): 7.62 and 7.37 (AB pattern, Jab=8.8 Hz, 2H), 7.55 and 7.40 (AB pattern, Jab=8.8 Hz, 2H), 7.18-7.14 (m, 2H), 7.02-6.95 (m, 2H), 4.82 and 4.75 (AB pattern, Jab=15.5 Hz, 1H), 4.62 (s, 1H), 4.30-4.25 (m, 1H), 4.09-3.73 (m, 4H), 3.29 (s, 1.5H), 3.27 (s, 1.5H), 2.93-2.55 (m, 12H), 2.30 (s, 3H), 2.21 (s, 1.5H), 2.16 (s, 1.5H).

reactant | 1-{3-(4-chloro-phenyl)-1-[2-hydroxy-3-(4-o-tolyl-piperazin-1-yl)-propyl]-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl}-ethanone | 0.05 mmol, 25 mg | ClC1=CC=C(C=C1)C1=NN(C2=C1CN(CC2)C(C)=O)CC(CN2CCN(CC2)C2=C(C=CC=C2)C)O | C28H34ClN5O2
reactant | NaH | 0.06 mmol, 1.42 mg | [H-].[Na+]
reactant | methyl iodide | 0.06 mmol, 3.7 μL | CI | CH3I
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | THF | 0.2 mL | C1CCOC1 | C4H8O
product | 1-{3-(4-Chloro-phenyl)-1-[2-methoxy-3-(4-o-tolyl-piperazin-1-yl)-propyl]-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl}-ethanone | ClC1=CC=C(C=C1)C1=NN(C2=C1CN(CC2)C(C)=O)CC(CN2CCN(CC2)C2=C(C=CC=C2)C)OC | C29H36ClN5O2
